US09376418B2
Isopropylmagnesium chloride (2 M in THF, 1.843 mL, 3.69 mmol) was added dropwise over 5 minutes to a cooled solution of 5-bromo-2-iodopyridine (0.999 g, 3.52 mmol) in THF (7.00 mL) under Ar(g) at 0° C. and then the reaction mixture was stirred for 1 hour. A solution of (R)—N-(dicyclopropylmethylidene)-2-methylpropane-2-sulfinamide (0.715 g, 3.35 mmol) in THF (3.00 mL) was added via syringe over 4 min at 0° C. to the reaction mixture. The reaction mixture was stirred at 0° C. for 1 hour and was warmed to room temperature. Saturated aqueous NH4Cl (15.0 mL) was added to the reaction and extracted with ethyl acetate (30 mL). The organic layer was washed with saturated aqueous NaHCO3, brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0.5-3% methanol in dichloromethane) to yield (R)—N-[(5-bromopyridin-2-yl)(dicyclopropyl)methyl]-2-methylpropane-2-sulfinamide as a yellow oil. MS APCI calc'd for C16H24BrN2OS [M+H]+ 371 and 373. found 371 and 373.

reactant | Isopropylmagnesium chloride | 3.69 mmol, 2 M, 1.843 mL | C(C)(C)[Mg]Cl
reactant | 5-bromo-2-iodopyridine | 3.52 mmol, 0.999 g | BrC=1C=CC(=NC1)I | C5H3BrIN
reactant | (R)—N-(dicyclopropylmethylidene)-2-methylpropane-2-sulfinamide | 3.35 mmol, 0.715 g | C1(CC1)C(=N[S@](=O)C(C)(C)C)C1CC1 | C11H19NOS
reactant | NH4Cl | 15.0 mL | [NH4+].[Cl-]
solvent | THF | 7.00 mL | C1CCOC1 | C4H8O
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
product | (R)—N-[(5-bromopyridin-2-yl)(dicyclopropyl)methyl]-2-methylpropane-2-sulfinamide | BrC=1C=CC(=NC1)C(N[S@](=O)C(C)(C)C)(C1CC1)C1CC1 | C16H23BrN2OS
